US08471005B2
Into a 1-neck round-bottom flask, 6-Amino-pyridine-2-carbaldehyde (2.85 g, 23.3 mmol), 1-Methylpiperazine (5.00 mL, 45.1 mmol), 1,2-Dichloroethane (100 mL, 1000 mmol) and Acetic acid (2.50 mL, 44.0 mmol) were added and stirred at room temperature for 2 hours. Sodium triacetoxyborohydride (14.8 g, 70.0 mmol) was added portion wise over 20 minutes. The reaction mixture was stirred at room temperature over night. The reaction was partitioned with Sat. NaHCO3. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and stripped to give a yellow solid. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 20% methano). The collected fractions afforded 6-(4-Methyl-piperazin-1-ylmethyl)-pyridin-2-ylamine as a yellow solid (1.20, 25%)

reactant | 6-Amino-pyridine-2-carbaldehyde | 23.3 mmol, 2.85 g | NC1=CC=CC(=N1)C=O | C6H6N2O
reactant | 1-Methylpiperazine | 45.1 mmol, 5.00 mL | CN1CCNCC1 | C5H12N2
reactant | 1,2-Dichloroethane | 1000 mmol, 100 mL | ClCCCl | C2H4Cl2
reactant | Acetic acid | 44.0 mmol, 2.50 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 70.0 mmol, 14.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 6-(4-Methyl-piperazin-1-ylmethyl)-pyridin-2-ylamine | CN1CCN(CC1)CC1=CC=CC(=N1)N | C11H18N4
